US06872730B2
Lithium bis(trimethylsilyl)amide (73 ml, 73 ml, 1M solution in THF) was added dropwise to a solution of resorcinol monoacetate (10 g, 65.7 mmol) in THF (100 ml) at 78° C. under argon. The solution was stirred for 10 minutes and then triisopropylsilyl chloride (15.5 ml, 73 mmol) was added via syringe. After stirring at room temperature overnight, the mixture was partitioned between water and ethyl acetate. The organic layer was dried, filtered and evaporated under vacuum to yield 13 g of crude 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenyl acetate which was used in the next step without further purification. NMR 1H Cl3CD δ: 7.19 (t, 1H, J=8 Hz), 6.75 (m, 1H), 6.68 (m, 1H), 6.63 (t, 1H, J=4 Hz), 2.29 (s, 3H), 1.25 (m, 3H), 1.11 (d, 18H, J=7.0 Hz).

reactant | Lithium bis(trimethylsilyl)amide | 1M, 73 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | resorcinol monoacetate | 65.7 mmol, 10 g | C(C)(=O)OC1=CC(O)=CC=C1 | C8H8O3
reactant | triisopropylsilyl chloride | 73 mmol, 15.5 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenyl acetate | 13 g | C(C)(=O)OC1=CC(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C | C17H28O3Si
